.title KiCad schematic
L6 +5V Net-_L6-Pad2_ GND Net-_L5-Pad2_ WS2812B
L1 +5V Net-_L1-Pad2_ GND Net-_L1-Pad4_ WS2812B
L2 +5V Net-_L2-Pad2_ GND Net-_L1-Pad2_ WS2812B
L3 +5V Net-_L3-Pad2_ GND Net-_L2-Pad2_ WS2812B
L4 +5V Net-_L4-Pad2_ GND Net-_L3-Pad2_ WS2812B
L5 +5V Net-_L5-Pad2_ GND Net-_L4-Pad2_ WS2812B
L7 +5V Net-_L7-Pad2_ GND Net-_L6-Pad2_ WS2812B
L8 +5V Net-_L8-Pad2_ GND Net-_L7-Pad2_ WS2812B
L10 +5V Net-_L10-Pad2_ GND Net-_L10-Pad4_ WS2812B
L19 +5V Net-_L19-Pad2_ GND Net-_L18-Pad2_ WS2812B
L16 +5V Net-_L16-Pad2_ GND Net-_L15-Pad2_ WS2812B
L11 +5V Net-_L11-Pad2_ GND Net-_L10-Pad2_ WS2812B
L12 +5V Net-_L12-Pad2_ GND Net-_L11-Pad2_ WS2812B
L13 +5V Net-_L13-Pad2_ GND Net-_L12-Pad2_ WS2812B
L14 +5V Net-_L14-Pad2_ GND Net-_L13-Pad2_ WS2812B
L15 +5V Net-_L15-Pad2_ GND Net-_L14-Pad2_ WS2812B
L17 +5V Net-_L17-Pad2_ GND Net-_L16-Pad2_ WS2812B
L18 +5V Net-_L18-Pad2_ GND Net-_L17-Pad2_ WS2812B
L20 +5V Net-_L20-Pad2_ GND Net-_L19-Pad2_ WS2812B
L29 +5V Net-_L29-Pad2_ GND Net-_L28-Pad2_ WS2812B
L26 +5V Net-_L26-Pad2_ GND Net-_L25-Pad2_ WS2812B
L21 +5V Net-_L21-Pad2_ GND Net-_L20-Pad2_ WS2812B
L22 +5V Net-_L22-Pad2_ GND Net-_L21-Pad2_ WS2812B
L23 +5V Net-_L23-Pad2_ GND Net-_L22-Pad2_ WS2812B
L24 +5V Net-_L24-Pad2_ GND Net-_L23-Pad2_ WS2812B
L25 +5V Net-_L25-Pad2_ GND Net-_L24-Pad2_ WS2812B
L27 +5V Net-_L27-Pad2_ GND Net-_L26-Pad2_ WS2812B
L28 +5V Net-_L28-Pad2_ GND Net-_L27-Pad2_ WS2812B
L30 +5V OUT_30Pixel GND Net-_L29-Pad2_ WS2812B
C29 +5V GND 104
C27 +5V GND 104
C26 +5V GND 104
C25 +5V GND 104
C28 +5V GND 104
C22 +5V GND 104
C23 +5V GND 104
C21 +5V GND 104
C20 +5V GND 104
C24 +5V GND 104
C19 +5V GND 104
C18 +5V GND 104
C17 +5V GND 104
C16 +5V GND 104
C15 +5V GND 104
C14 +5V GND 104
C13 +5V GND 104
C12 +5V GND 104
C11 +5V GND 104
C10 +5V GND 104
C9 +5V GND 104
C8 +5V GND 104
C7 +5V GND 104
C6 +5V GND 104
C5 +5V GND 104
C4 +5V GND 104
C3 +5V GND 104
C2 +5V GND 104
C1 +5V GND 104
R1 Net-_L1-Pad4_ IN_30Pixel 471
P1 +5V CONN_01X01
P4 +5V CONN_01X01
P2 IN_30Pixel CONN_01X01
P3 GND CONN_01X01
P6 OUT_30Pixel CONN_01X01
P5 GND CONN_01X01
L9 +5V Net-_L10-Pad4_ GND Net-_L8-Pad2_ WS2812B
L36 +5V Net-_L36-Pad2_ GND Net-_L35-Pad2_ WS2812B
L31 +5V Net-_L31-Pad2_ GND Net-_L31-Pad4_ WS2812B
L50 +5V OUT_20Pixel GND Net-_L49-Pad2_ WS2812B
C48 +5V GND 104
C34 +5V GND 104
R2 Net-_L31-Pad4_ IN_20Pixel 471
P7 IN_20Pixel CONN_01X01
P8 GND CONN_01X01
P10 OUT_20Pixel CONN_01X01
P12 +5V CONN_01X01
P11 GND CONN_01X01
P9 +5V CONN_01X01
L32 +5V Net-_L32-Pad2_ GND Net-_L31-Pad2_ WS2812B
C30 +5V GND 104
L37 +5V Net-_L37-Pad2_ GND Net-_L36-Pad2_ WS2812B
C35 +5V GND 104
L42 +5V Net-_L42-Pad2_ GND Net-_L41-Pad2_ WS2812B
C40 +5V GND 104
L43 +5V Net-_L43-Pad2_ GND Net-_L42-Pad2_ WS2812B
C41 +5V GND 104
L44 +5V Net-_L44-Pad2_ GND Net-_L43-Pad2_ WS2812B
C42 +5V GND 104
L45 +5V Net-_L45-Pad2_ GND Net-_L44-Pad2_ WS2812B
C43 +5V GND 104
L46 +5V Net-_L46-Pad2_ GND Net-_L45-Pad2_ WS2812B
C44 +5V GND 104
L47 +5V Net-_L47-Pad2_ GND Net-_L46-Pad2_ WS2812B
C45 +5V GND 104
L48 +5V Net-_L48-Pad2_ GND Net-_L47-Pad2_ WS2812B
C46 +5V GND 104
L49 +5V Net-_L49-Pad2_ GND Net-_L48-Pad2_ WS2812B
C47 +5V GND 104
L33 +5V Net-_L33-Pad2_ GND Net-_L32-Pad2_ WS2812B
C31 +5V GND 104
L34 +5V Net-_L34-Pad2_ GND Net-_L33-Pad2_ WS2812B
C32 +5V GND 104
L35 +5V Net-_L35-Pad2_ GND Net-_L34-Pad2_ WS2812B
C33 +5V GND 104
L38 +5V Net-_L38-Pad2_ GND Net-_L37-Pad2_ WS2812B
C36 +5V GND 104
L39 +5V Net-_L39-Pad2_ GND Net-_L38-Pad2_ WS2812B
C37 +5V GND 104
L40 +5V Net-_L40-Pad2_ GND Net-_L39-Pad2_ WS2812B
C38 +5V GND 104
L41 +5V Net-_L41-Pad2_ GND Net-_L40-Pad2_ WS2812B
C39 +5V GND 104
.end
